US08497360B2
Compounds 3′,5′-O-bis-(tert-butyldimethylsilyl)-5-(2-isopropylbenzyl-oxy)methyl-2′-deoxyuridine (134 mg, 0.22 mmol) and (3′ or 5′)-O-(tert-butyldimethylsilyl)-5-(2-isopropylbenzyloxy)methyl-2′-deoxyuridine (98 mg, 0.19 mmol) were dissolved in THF (5 mL), and a solution of tetra-n-butylammonium fluoride trihydrate (323 mg, 1.05 mmol) in THF (2 mL) was added. The mixture was stirred at room temperature for one hour, then concentrated in vacuo and purified by silica gel column chromatography to give 5-(2-isopropylbenzyloxy)methyl-2′-deoxyuridine dU.n6 (108 mg, 67%).

reactant | 3′,5′-O-bis-(tert-butyldimethylsilyl)-5-(2-isopropylbenzyl-oxy)methyl-2′-deoxyuridine | 0.22 mmol, 134 mg | [Si](C)(C)(C(C)(C)C)[C@@]1(C[C@@H](O[C@@H]1CO[Si](C)(C)C(C)(C)C)N1C(=O)NC(=O)C(=C1)COCC1=C(C=CC=C1)C(C)C)O | C32H54N2O6Si2
reactant | tetra-n-butylammonium fluoride trihydrate | 1.05 mmol, 323 mg | O.O.O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 5-(2-isopropylbenzyloxy)methyl-2′-deoxyuridine | C(C)(C)C1=C(COCC=2C(NC(N([C@H]3C[C@H](O)[C@@H](CO)O3)C2)=O)=O)C=CC=C1 | C20H26N2O6
